* D:\WORKSPACE\3.EEE\0 Low Pass Filter RC\LTSPICE Sim\low_pass_filter_rc_ESR_ESL.asc
* Generated by LTspice 26.0.1 for Windows.
R1 out1 in1 10K tol=1 pwr=0.1
C1 out1 0 0.1µ V=4 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM022R60G153KE15" type="X5R"
V1 in1 0 PULSE(0 5 10m 1u 1u 10m 20m) AC 1
R2 out2 in2 10K tol=1 pwr=0.1
C2 out2 N001 0.1µ V=4 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM022R60G153KE15" type="X5R"
V2 in2 0 PULSE(0 5 10m 1u 1u 10m 20m) AC 1
R§ESR1 N001 0 300m
R3 out4 in4 10K tol=1 pwr=0.1
C3 out4 N004 0.1µ V=4 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM022R60G153KE15" type="X5R"
V3 in4 0 PULSE(0 5 10m 1u 1u 10m 20m) AC 1
L1 N004 0 30n Rser=0
R4 out3 in3 10K tol=1 pwr=0.1
C4 out3 N002 0.1µ V=4 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM022R60G153KE15" type="X5R"
V4 in3 0 PULSE(0 5 10m 1u 1u 10m 20m) AC 1
R§ESR2 N002 N003 300m
L2 N003 0 30n Rser=0
* .tran 50m
.ac dec 100 1 100MEG
* Find the max output (to handle non-ideal filters)
.MEAS AC max_v_out MAX mag(V(out))
* Find the -3dB frequency relative to the max
.MEAS AC fc WHEN mag(V(out)) = (max_v_out / sqrt(2))
* RC LOW PASS FILTER : IDEAL
* RC LOW PASS FILTER : ESR
* RC LOW PASS FILTER : ESL
* RC LOW PASS FILTER : ESR & ESL
.backanno
.end
